US08044062B2
To a 3-necked 3-L flask, that was equipped with an overhead stirrer, was added in order 2-amino-4-chloro-6-methylpyrimidine (Aldrich, 100 g, 0.696 mol, 1 equiv.), ethylamine (70% ethylamine in water, Lancaster, 625 mL), 625 mL H2O, and 125 mL TEA (0.889 mol, 1.28 equiv.). The mixture was stirred and heated at reflux for 20 h, during which time the reaction turned homogeneous. The reaction was allowed to cool to room temperature. The volatile ethylamine was removed on a rotary evaporator. A precipitate formed. The aqueous mixture containing the precipitate was allowed to stand at room temperature for 2 h and then filtered. After drying under vacuum, 106 g (100% yield) of 2-amino-6-ethylaminopyrimidine was obtained as a colorless solid. This material was used as such in the following reaction.

reactant | 2-amino-4-chloro-6-methylpyrimidine | 0.696 mol, 100 g, 1 equiv. | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | ethylamine | 625 mL | C(C)N | C2H7N
solvent | H2O | 625 mL | O | H2O
product | 2-amino-6-ethylaminopyrimidine | 106 g, 100% yield | NC1=NC(=CC=N1)NCC | C6H10N4
